US08461179B1
A mixture of 3-(5-amino-2-chloro-4-fluorophenyl)-7-chloro-1-methyl-1,6-naphthyridin-2(1H)-one (2.5 g, 7.4 mmol) and 4-methoxy-N-methylbenzylamine (4 mL) was heated to 180° C. under N2 for 3 h. After cooling, the reaction mixture was diluted with Et2O. The precipitate was filtered, washed with water, and dried to give 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-2-chloro-4-fluorophenyl)-1-methyl-1,6-naphthyridin-2(1H)-one (3 g, 89% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.47 (s, 1H), 7.77 (s, 1H) 7.22 (m, 2H), 7.17 (d, J=8.0 Hz, 2H), 6.86 (d, J=8.4 Hz, 2H), 5.86 (d, J=9.6 Hz, 1H), 6.30 (s, 1H), 5.32 (s, 2H) 4.87 (s, 1H), 3.72 (s, 3H), 3.52 (s, 3H), 3.09 (s, 3H); MS (ESI) m/z: 453.2[M+H]+.

reactant | 3-(5-amino-2-chloro-4-fluorophenyl)-7-chloro-1-methyl-1,6-naphthyridin-2(1H)-one | 7.4 mmol, 2.5 g | NC=1C(=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)Cl)C)=O)Cl)F | C15H10Cl2FN3O
reactant | 4-methoxy-N-methylbenzylamine | 4 mL | COC1=CC=C(CNC)C=C1 | C9H13NO
solvent | Et2O | CCOCC | C4H10O
product | 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-2-chloro-4-fluorophenyl)-1-methyl-1,6-naphthyridin-2(1H)-one | 3 g, 89% yield | COC1=CC=C(CN(C2=NC=C3C=C(C(N(C3=C2)C)=O)C2=C(C=C(C(=C2)N)F)Cl)C)C=C1 | C24H22ClFN4O2
